US07528140B2
[(Methylamino)ethylidene)methane-1,1-dicarbonitrile was synthesized in the same manner using (ethoxyethylidene)methane-1,1-dicarbonitrile and methylamine. The NMR data for this compound are shown below.

reactant | (ethoxyethylidene)methane-1,1-dicarbonitrile | C(C)OCC=C(C#N)C#N | C7H8N2O
reactant | methylamine | CN | CH5N
product | [(Methylamino)ethylidene)methane-1,1-dicarbonitrile | CNCC=C(C#N)C#N | C6H7N3
